US07888366B2
2-Fluoro-6-(4-methylbenzyloxy)benzonitrile (241.3 mg; 1 mmol) and guanidine carbonate (180.2 mg; 1 mmol) were heated at 145° C. in dimethyl acetamide for 7 hours. The solvent was removed. Purification by recrystallization in hot ethanol/water yielded 106 milligrams of 5-(4-methylbenzyloxy)quinazoline-2,4-diamine.

reactant | 2-Fluoro-6-(4-methylbenzyloxy)benzonitrile | 1 mmol, 241.3 mg | FC1=C(C#N)C(=CC=C1)OCC1=CC=C(C=C1)C | C15H12FNO
reactant | guanidine carbonate | 1 mmol, 180.2 mg | C(O)(O)=O.NC(=N)N
solvent | dimethyl acetamide | CC(=O)N(C)C | C4H9NO
product | 5-(4-methylbenzyloxy)quinazoline-2,4-diamine | 106 milligrams | CC1=CC=C(COC2=C3C(=NC(=NC3=CC=C2)N)N)C=C1 | C16H16N4O
